US06545017B1
N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N′-(2-furoyl)thiourea
Using the methods of Examples 75-85, 2-furoylisothiocyanate was reacted with 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine to provide the desired compound. The observed accurate mass was 387.1608.

reactant | 2-furoylisothiocyanate | O1C(=CC=C1)C(=O)N=C=S | C6H3NO2S
reactant | 1-(3-aminopropyl)-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-4-amine | NCCCN1C(=NC=2C(=NC(=C(C21)C)C)N)C | C12H19N5
product | N-[3-(4-amino-2,6,7-trimethyl-1H-imidazo[4,5-c]pyridin-1-yl)propyl]-N′-(2-furoyl)thiourea | NC1=NC(=C(C2=C1N=C(N2CCCNC(=S)NC(=O)C=2OC=CC2)C)C)C | C18H22N6O2S
